US08048878B2
Synthesis of 9H-fluoren-9-ylmethyl (3R,5S)-3-(4-chlorophenyl)-5-hydroxymethylmorpholine-4-carboxylate
9-Fluorenylmethyl chloroformate (122 mg) was added to a mixed solution of [(3S,5R)-5-(4-chlorophenyl)morpholin-3-yl]methanol (86 mg) in methylene chloride (3 mL) and a saturated sodium bicarbonate solution (3 mL). The reaction solution was stirred at room temperature for eight hours. Then, chloroform and a saturated ammonium chloride solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent solvent: heptane-ethyl acetate system) to obtain 153 mg of the title compound. The property value of the compound is as follows.

reactant | 9-Fluorenylmethyl chloroformate | 122 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | [(3S,5R)-5-(4-chlorophenyl)morpholin-3-yl]methanol | 86 mg | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)CO | C11H14ClNO2
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 9H-fluoren-9-ylmethyl (3R,5S)-3-(4-chlorophenyl)-5-hydroxymethylmorpholine-4-carboxylate | 153 mg | ClC1=CC=C(C=C1)[C@H]1N([C@H](COC1)CO)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C26H24ClNO4
